US05082973
When the components are passed once through the reactor at a rate giving a residence time of from 1 to 3 minutes, the conversion rate is 57%. This can be increased to 91% conversion by continuously pumping the effluent reaction mixture back to the fixed bed of the reactor to give an average residence time of approximately 15 minutes. No advantage is gained, we have found, by first converting sulfur trioxide and dimethyl sulfate to reactive dimethyl pyrosulfate and then reacting the latter with chlorobenzene. Precipitating the product in chlorobenzene instead of aqueous sulfuric acid gives bis(4-chlorophenyl) sulfone having a purity of >99.5%.

reactant | sulfur trioxide | S(=O)(=O)=O | O3S
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
reactant | dimethyl pyrosulfate | S(=O)(=O)(OC)OS(=O)(=O)OC | C2H6O7S2
reactant | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | bis(4-chlorophenyl) sulfone | ClC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)Cl | C12H8Cl2O2S
